US04284631
4-Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 3.3 g.), 10% palladium-carbon (1.7 g.), methanol (65 ml.) and tetrahydrofuran (65 ml.) were treated in similar manner to that of Example 11-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.45 g.).

reactant | 4-Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate | 3.3 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCNC(=O)OC(C)(C)C | C27H28ClN7O10S2
reactant | methanol | 65 ml | CO | CH4O
catalyst | palladium-carbon | 1.7 g | [C].[Pd]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.45 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C20H23ClN6O8S2
